US04640708
3-Chloro-4-cyano-1-methyl-5,6,7,8-tetrahydroisoquinoline (10.0 g) was refluxed with sodium methoxide (1.1 equiv) in a mixture of methanol (150 ml) and anhydrous dimethylformamide (20 ml) for 24 hr. The bulk of the solvent was evaporated under reduced pressure, water was added to the residue and the resulting mixture was extracted with ether. The dried (MgSO4) organic fraction was evaporated and the residue was purified by column chromatography over silica gel with dichloromethane elution to give 4-cyano-3-methoxy-1-methyl-5,6,7,8-tetrahydroisoquinoline as white crystals, mp 116° C. Pmr spectrum (CDCl3 ; δ in ppm): 1.81 (4H,m); 2.39 (3H,s); 2.50-2.94 (4H,m); 3.98 (3H, s).

reactant | 3-Chloro-4-cyano-1-methyl-5,6,7,8-tetrahydroisoquinoline | 10.0 g | ClC=1N=C(C=2CCCCC2C1C#N)C | C11H11ClN2
reactant | sodium methoxide | 1.1 equiv | C[O-].[Na+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | 150 ml | CO | CH4O
product | 4-cyano-3-methoxy-1-methyl-5,6,7,8-tetrahydroisoquinoline | C(#N)C1=C(N=C(C=2CCCCC12)C)OC | C12H14N2O
